US05508306
2,6-Dimethyl-4-(4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide methyl ester hydrochloride hydrate (Compound 2)
To a solution of 2,6-dimethyl-4-(4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide methyl ester (147.8 mg, 0.243 mmol, 1.0 equiv) in EtOH (2 mL) was added a solution of HCl in ether (1.0M, 0.24 mL, 0.24 mmol, 1.0 equiv). Addition of ethyl acetate (3 mL) followed by heating gave a clear solution. Slow cooling of this solution followed by filtration gave 91 mg of yellow crystalline solid: mp 182°-183° C.; Anal. Calcd. for C36H40N4O5 ·HCl·H2O: C, 65.20, H, 6.54; N, 8.45. Found: C, 65.30; H, 6.28; N, 8.15.

reactant | 2,6-dimethyl-4-(4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide methyl ester | 0.243 mmol, 147.8 mg, 1.0 equiv | COC(=O)C=1C(C(=C(NC1C)C)C(=O)NCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C36H40N4O5
reactant | HCl | Cl | ClH
reactant | ether | 0.24 mmol, 1.0M, 0.24 mL, 1.0 equiv | CCOCC | C4H10O
reactant | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2,6-Dimethyl-4-(4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide methyl ester hydrochloride hydrate | 91 mg | O.Cl.COC(=O)C=1C(C(=C(NC1C)C)C(=O)NCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C36H40N4O5.ClH.H2O/c1-25-31(33(32(26(2)38-25)35(42)45-3)27-15-17-30(18-16-27)40(43)44)34(41)37-21-10-22-39-23-19-36(20-24-39,28-11-6-4-7-12-28)29-13-8-5-9-14-29;;/h4-9,11-18,33,38H,10,19-24H2,1-3H3,(H,37,41);1H;1H2
